US04110339
A suspension of 5 g. of 1-benzoyl-4-bromo-5-keto-1,2,2a,3,4,5-hexahydrobenz[cd]indole was prepared in 200 ml. of ether. 2 g. of sodium borohydride and 50 ml. of methanol were added and the reaction mixture stirred for 35 minutes. The reaction mixture was then diluted with water and the aqueous layer extracted with ethyl acetate. The ethyl acetate layer was separated, washed with water and with saturated aqueous sodium chloride. The organic layer was dried and the solvent removed by evaporation to dryness. Thin layer chromatography indicated that the resulting residue was a single spot material and consisted of 1-benzoyl-4-bromo-5-hydroxy-1,2,2a,3,4,5-hexahydrobenz[cd]indole. The residue was dissolved in 50 ml. of acetic acid. 10 g. of zinc dust were added and the resulting mixture refluxed for 13/4 hours under a nitrogen atmosphere. Thin layer chromatography of an aliquot indicated that one major spot was present. The reaction mixture was filtered and the filtrate poured over ice. The resulting aqueous mixture was made basic with 14 N aqueous ammonium hydroxide. The alkaline layer was then extracted with ethyl acetate. The ethyl acetate extract was separated, washed with water and with saturated aqueous sodium chloride and then dried. Evaporation of the solvent yielded a residue which was shown by thin layer chromatography to consist of one major spot with a small spot corresponding to starting material. A chloroform solution of the residue was filtered through florisil and the residue obtained after the evaporation of chloroform in vacuo was crystallized from methanol to yield crystalline 1-benzoyl-1,2,2a,3-tetrahydrobenz[cd]indole melting at 89°-91° C.

reactant | 1-benzoyl-4-bromo-5-keto-1,2,2a,3,4,5-hexahydrobenz[cd]indole | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=CC=CC13)C(C(C2)Br)=O | C18H14BrNO2
reactant | ether | CCOCC | C4H10O
reactant | sodium borohydride | [BH4-].[Na+]
reactant | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-benzoyl-1,2,2a,3-tetrahydrobenz[cd]indole | C(C1=CC=CC=C1)(=O)N1CC2C=3C(=CC=CC13)C=CC2 | C18H15NO
